US07557114B2
(i) 5-Fluoro-6-(tetrahydro-pyran-4-yl)-2,3-dihydro-1H-isoindole
To a stirred solution 0.12 mmol 2-benzhydryl-5-fluoro-6-(tetrahydro-pyran-4-yl)-2,3-dihydro-1H-isoindole in 4 ml methanol was added 4 mg 10% palladium on charcoal and the mixture was stirred under an atmosphere of hydrogen for 16 h. The reaction mixture was then filtered and the filtrate was concentrated in vacuo to yield the title compound as a yellow solid (100% yield). MS (m/e): 222.1 ([M+H]+, 100%).

reactant | 2-benzhydryl-5-fluoro-6-(tetrahydro-pyran-4-yl)-2,3-dihydro-1H-isoindole | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC2=CC(=C(C=C2C1)F)C1CCOCC1 | C26H26FNO
solvent | methanol | 4 ml | CO | CH4O
catalyst | palladium on charcoal | 4 mg | [Pd] | Pd
product | 5-Fluoro-6-(tetrahydro-pyran-4-yl)-2,3-dihydro-1H-isoindole | 100% yield | FC=1C=C2CNCC2=CC1C1CCOCC1 | C13H16FNO
